US05439915
A mixture of 1, 2, 3, 4-tetrahydro-9H-pyrido[3, 4-b]indole (1.7 g, 9.8 mmol) and (R)-4-methyl-3-(pyridin-2-yl)-[1, 2, 3]-oxathiazolidine-2, 2-dioxide (1.90 g, 8.9 mmol) in 30 ml of anhydrous dimethylformamide was stirred under nitrogen at room temperature for two hours. The dimethylformamide was removed under reduced pressure and the residue was dissolved in 15 ml of tetrahydrofuran plus 5 ml of water. Concentrated sulfuric acid (470 μl, 8.9 mmol) was added dropwise and the reaction stirred at room temperature for 30 minutes. Sodium bicarbonate (3.0 g, 35 mmol) is then added and the mixture stirred at room temperature overnight. The reaction was partitioned between ethyl acetate and water. The organic layer was separated. The aqueous layer was made basic with sodium bicarbonate and then extracted with ethyl acetate. The organic layers were combined, washed two times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2.68 g (98%) of (R)-[1-methyl-2-(1, 3, 4, 9-tetrahydro-2H-pyrido [3, 4-b]indol-2-yl)-ethyl]-pyridin-2-yl-amine as a light yellow oil, MS [M+HI+ 307.

reactant | 1, 2, 3, 4-tetrahydro-9H-pyrido[3, 4-b]indole | 9.8 mmol, 1.7 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | (R)-4-methyl-3-(pyridin-2-yl)-[1, 2, 3]-oxathiazolidine-2, 2-dioxide | 8.9 mmol, 1.90 g | C[C@H]1N(S(OC1)(=O)=O)C1=NC=CC=C1 | C8H10N2O3S
reactant | sulfuric acid | 8.9 mmol, 470 μl | S(O)(O)(=O)=O | H2O4S
reactant | Sodium bicarbonate | 35 mmol, 3.0 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (R)-[1-methyl-2-(1, 3, 4, 9-tetrahydro-2H-pyrido [3, 4-b]indol-2-yl)-ethyl]-pyridin-2-yl-amine | 2.68 g, 98% | C[C@H](CN1CC=2NC3=CC=CC=C3C2CC1)NC1=NC=CC=C1 | C19H22N4
